US07186724B2
4-(6-Fluoro-benzo[d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (MDL 811778).
To a stirred suspension of 4-(6-fluoro-benzo[d]isoxazol-3-yl)-piperidine (1.00 g, 454 mmol) in dry dichloromethane (10.0 mL) was added triethylamine (0.95 mL, 6.82 mmoles), 4-dimethylaminopyridine (55 mg, 0.454 mmoles) and di-tert-butyl dicarbonate (1.98 g, 9.09 mmoles). Gas spontaneously evolved for several minutes upon the addition of di-tert-butyl dicarbonate. The resulting solution was stirred at room temperature for 1 hour when the solution was diluted with CH2Cl2 (50 mL) and washed with water (10 mL), 10% HClaq(10 mL), water (10 mL), saturated NaHCO3 (10 mL), water (10 mL) and brine (10 mL) and dried (MgSO4), filtered and evaporated. The residue was recrystallized from diethyl ether yielding 1.31 g (90%) as a white, crystalline solid, mp 117–188° C. Analysis calculated for C17H21N2FO3: 63.74% C, 6.61% H, 8.74% N. Found: 63.66% C, 6.64% H, 8.73% N.

reactant | 4-(6-fluoro-benzo[d]isoxazol-3-yl)-piperidine | 454 mmol, 1.00 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | triethylamine | 6.82 mmoles, 0.95 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 9.09 mmoles, 1.98 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10.0 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.454 mmoles, 55 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(6-Fluoro-benzo[d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | C17H21FN2O3
